US04792616
by using ethyl 1-ethyl-2-hydroxy-ethylcarbamate and 2-bromopropionyl bromide there is obtained ethyl 1-ethyl-2-(2-bromopropionyloxy)-ethylcarbamate, nD20 1.4736;

reactant | ethyl 1-ethyl-2-hydroxy-ethylcarbamate | C(C)C(CO)NC(OCC)=O | C7H15NO3
reactant | 2-bromopropionyl bromide | BrC(C(=O)Br)C | C3H4Br2O
product | ethyl 1-ethyl-2-(2-bromopropionyloxy)-ethylcarbamate | C(C)C(COC(C(C)Br)=O)NC(OCC)=O | C10H18BrNO4
